US05173554
A 19.4 g quantity of methyl glucoside (STA-MEG 106, product of Horizon Chemical A. E. Staley Manufacturing Co.) was suspended in 140 ml of 2-hydroxyethyl methacrylate. To the suspension were added 2.6 g of hydroquinone monomethyl ether and 1.0 g of phosphomolybidic acid, and the mixture was stirred well and gradually heated. After heating to a temperature of 80° to 90° C., the mixture was further stirred for about 2 hours while maintaining the same temperature and was neutralized with 2N sodium hydroxide. The obtained reaction mixture was concentrated under reduced pressure and subjected to silica gel chromatography (eluent, chloroform:methanol=9:1). A fraction (Rf =0.2) of the reaction mixture was concentrated, giving 20.1 g of galactosyloxyethyl acrylate (HEMA-Glc) as an oily product (yield 68.8%).

reactant | methyl glucoside | CO[C@@H]1[C@H]([C@@H]([C@H](C(O1)CO)O)O)O | C7H14O6
reactant | hydroquinone monomethyl ether | 2.6 g | COC1=CC=C(O)C=C1 | C7H8O2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | 2-hydroxyethyl methacrylate | 140 ml | C(C(=C)C)(=O)OCCO | C6H10O3
product | galactosyloxyethyl acrylate | 20.1 g | C(C=C)(=O)OCCOC1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO | C11H18O8
